US07109192B2
4b) 4-amino-1-benzyl-3-nitro-pyridin-2-one
20 ml of a saturated ethanolic ammonia solution were added to a solution of 5.5 g (16.3 mmol) of 1-benzyl-4-benzyloxy-3-nitro-pyridin-2-one in 50 ml dichloromethane and stirred for 3 days at ambient temperature in the sealed flask. The solution was evaporated to dryness, the residue was triturated with diethyl ether, suction filtered and dried.

reactant | ammonia | 20 ml | N | H3N
reactant | 1-benzyl-4-benzyloxy-3-nitro-pyridin-2-one | 16.3 mmol, 5.5 g | C(C1=CC=CC=C1)N1C(C(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])=O | C19H16N2O4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-amino-1-benzyl-3-nitro-pyridin-2-one | NC1=C(C(N(C=C1)CC1=CC=CC=C1)=O)[N+](=O)[O-] | C12H11N3O3
